US07405229B2
A mixture of (1R,2R)-2-(2-bromophenyl)-5,5-difluorocyclohexanecarboxylic acid (820 mg, 2.58 mmol), benzotriazol-1-yl-oxytripyrrolidinophosphonium hexafluorophosphate (1.49 g, 2.86 mmol) and aminoacetonitrile hydrochloride (530 mg, 5.73 mmol) in N, N-dimethylformamide (5.0 mL) was cooled to 0° C. and treated with triethylamine (1.26 mL, 9.04 mmol). The resulting slurry was stirred at room temperature for 2.5 hours and then poured into water and extracted with ethyl acetate (3×). The combined extracts were washed with brine and dried (Na2SO4). Concentration in vacuo and chromatography of the residue on silica eluting with 2/3 EtOAc/hexanes yielded (1R,2R)-2-(2-bromophenyl)-N-(cyanomethyl)-5,5-difluorocyclohexanecarboxamide as a faint-yellow foam.

reactant | (1R,2R)-2-(2-bromophenyl)-5,5-difluorocyclohexanecarboxylic acid | 2.58 mmol, 820 mg | BrC1=C(C=CC=C1)[C@H]1[C@@H](CC(CC1)(F)F)C(=O)O | C13H13BrF2O2
reactant | benzotriazol-1-yl-oxytripyrrolidinophosphonium hexafluorophosphate | 2.86 mmol, 1.49 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N2CCCC2)(N2CCCC2)N2CCCC2
reactant | aminoacetonitrile hydrochloride | 5.73 mmol, 530 mg | Cl.NCC#N
reactant | triethylamine | 9.04 mmol, 1.26 mL | C(C)N(CC)CC | C6H15N
solvent | N, N-dimethylformamide | 5.0 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | (1R,2R)-2-(2-bromophenyl)-N-(cyanomethyl)-5,5-difluorocyclohexanecarboxamide | BrC1=C(C=CC=C1)[C@H]1[C@@H](CC(CC1)(F)F)C(=O)NCC#N | C15H15BrF2N2O
